US06710068B2
Synthesis of Ethyl pyruvate 2,4-dichlorophenylhydrazone
A mixture of 2,4-dichlorophenylhydrazine (16.00 g, 0.075 mol), ethyl pyruvate (14.47 g, 10.3 mL, 0.12 mol), glacial acetic acid (0.9 mL), absolute ethanol (105 mL) was refluxed for 2 hours. After cooling at room temperature, the solid which formed was filtered and recrystallized from ethanol to give 17.0 g (83%) of the title compound, mp 118-120° C. (from ethanol).

reactant | 2,4-dichlorophenylhydrazine | 0.075 mol, 16.00 g | ClC1=C(C=CC(=C1)Cl)NN | C6H6Cl2N2
reactant | ethyl pyruvate | 0.12 mol, 10.3 mL, 14.47 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | acetic acid | 0.9 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 105 mL | C(C)O | C2H6O
product | Ethyl pyruvate 2,4-dichlorophenylhydrazone | 17.0 g, 83% | ClC1=C(C=CC(=C1)Cl)NN=C(C(=O)OCC)C | C11H12Cl2N2O2
